US07151112B1
To a mixture of the (3-aminophenyl)carbamic acid tert-butyl ester (100 mg, 0.48 mmol) and 2-mercaptonicotinic acid (81 mg, 0.52 mmol) in DMF (5 mL) was added EEDQ (154 mg, 0.63 mmol). The mixture was stirred at ambient temperature for 15 h, was diluted with water and extracted with ethyl acetate (3×25 mL). The combined extracts were washed with water and brine and dried over magnesium sulfate. The residue was taken up in a small quantity of ethyl acetate (3 mL) and was briefly heated at reflux (1 minute). The mixture was cooled and the resulting solids collected via vacuum filtration on a fritted glass funnel. This afforded 90 mg of a solid which was not purified or characterized, but carried on directly. The material was dissolved in NMP (5 mL) and was treated with ethyl bromoacetate (32 μL, 0.29 mmol) and DIPEA (90 μL, 0.52 mmol). The resulting mixture was stirred for 10 minutes and was poured into water. The resulting mixture was extracted with ethyl acetate (3×50 mL) and the combined extracts were washed with water and brine. Filtration and concentration in vacuo afforded a residue which was purified via radial chromatography (1 mm plate, 10% ethyl acetate/hexanes) to give 41 mg (36%) of [5-(3-tert-butoxycarbonylamino-phenylcarbamoyl)pyrdin-2-ylsulfanyl]acetic acid ethyl ester as a solid: 1H NMR (300 MHz, acetone-d6) δ 9.63 (bs, 1H), 8.99 (m, 1H), 8.45 (bs, 1H), 8.18 (m, 1H), 8.01 (s, 1H), 7.58 (m, 1H), 7.40 (m, 1H), 7.20 (m, 2H), 4.13 (m, 2H), 4.07 (s, 2H), 1.47 (s, 9H), 1.19 (m, 1H); MS (EI) m/z 430.06 (M−H)−.

reactant | (3-aminophenyl)carbamic acid tert-butyl ester | 0.48 mmol, 100 mg | C(C)(C)(C)OC(NC1=CC(=CC=C1)N)=O | C11H16N2O2
reactant | 2-mercaptonicotinic acid | 0.52 mmol, 81 mg | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | EEDQ | 0.63 mmol, 154 mg | CCOC1C=CC2=CC=CC=C2N1C(=O)OCC | C14H17NO3
reactant | ethyl bromoacetate | 0.29 mmol, 32 μL | BrCC(=O)OCC | C4H7BrO2
reactant | DIPEA | 0.52 mmol, 90 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | [5-(3-tert-butoxycarbonylamino-phenylcarbamoyl)pyrdin-2-ylsulfanyl]acetic acid ethyl ester | 41 mg, 36% | C(C)OC(CSC1=NC=C(C=C1)C(NC1=CC(=CC=C1)NC(=O)OC(C)(C)C)=O)=O | C21H25N3O5S
